US05846982
A solution of 0.29 gm (0.79 mMol) 4-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene in 4.0 mL dichloromethane was subjected to the reaction conditions described in Example 51, providing 0.175 gm (88%) of 4-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene as a tan powder.

reactant | 4-chloro-2-(4-hydroxy-1-(tert-butoxycarbonyl)piperidin-4-yl)benzothiophene | 0.79 mMol, 0.29 gm | ClC1=CC=CC2=C1C=C(S2)C2(CCN(CC2)C(=O)OC(C)(C)C)O | C18H22ClNO3S
solvent | dichloromethane | 4.0 mL | ClCCl | CH2Cl2
product | 4-chloro-2-(1,2,3,6-tetrahydropyridin-4-yl)benzothiophene | 0.175 gm, 88% | ClC1=CC=CC2=C1C=C(S2)C=2CCNCC2 | C13H12ClNS
